US08486967B2
b) tert-Butyl 2-(2-(2-methoxy-2-oxo-1-phenylethoxy)ethylidene)hydrazinecarboxylate
(2-Oxo-ethoxy)-phenyl-acetic acid methyl ester (2.7 g, 13.0 mmol) and tert-butyl carbazate (1.75 g, 13.0 mmol) were dissolved in toluene (290 mL) and heated to 65° C. over night. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 100 g, 0% to 100% EtOAc in heptane over 60 minutes) to give the title compound as yellow viscous oil (2.81 g, 67%).

reactant | (2-Oxo-ethoxy)-phenyl-acetic acid methyl ester | 13.0 mmol, 2.7 g | COC(C(C1=CC=CC=C1)OCC=O)=O | C11H12O4
reactant | tert-butyl carbazate | 13.0 mmol, 1.75 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | toluene | 290 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-(2-(2-methoxy-2-oxo-1-phenylethoxy)ethylidene)hydrazinecarboxylate | 2.81 g, 67% | COC(C(OCC=NNC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C16H22N2O5
